US05068231
3-[3-(Trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A mixture of 30.6 g (0.141 mole) of 3-[3-(trifluoromethyl)phenoxy]azetidine and 42 g (0.321 mole) of nitrourea (80%) in 500 ml of acetone was stirred for 5 days (5 days not required, but convenient) at room temperature. The mixture was filtered and the filtrate concentrated in vacuo. The residue was partitioned between 150 ml of water and 100 ml of ethyl acetate and the layers separated. The aqueous layer was washed with 100 ml of ethyl acetate. The ethyl acetate layers were washed with 75 ml of 5% aqueous sodium hydroxide solution followed by 75 ml of water, dried over sodium sulfate and concentrated in vacuo. The residual oil was crystallized from ethyl alcohol-ethyl acetate to give 22 g (60%) substantially the title compound. Recrystallization twice from ethyl alcohol gave 9.9 g of white crystalline solid, m.p. 151°-152.5° C.

reactant | 3-[3-(trifluoromethyl)phenoxy]azetidine | 0.141 mole, 30.6 g | FC(C=1C=C(OC2CNC2)C=CC1)(F)F | C10H10F3NO
reactant | nitrourea | 0.321 mole, 42 g | [N+](=O)([O-])NC(=O)N | CH3N3O3
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 3-[3-(Trifluoromethyl)phenoxy]-1-azetidinecarboxamide | FC(C=1C=C(OC2CN(C2)C(=O)N)C=CC1)(F)F | C11H11F3N2O2
